US07709500B2
Alternative Step 1: 4-(3,4-dichlorophenoxy)piperidine
A thin slurry of 4-hydroxypiperidine (50 g, 494 mmol) in THF (200 ml) was added to a stirred suspension of potassium tert-butoxide (110.9 g, 990 mmol) in THF (650 ml) at room temperature and washed in with THF (50 ml). The resultant mixture was stirred under nitrogen for 20 minutes. 1,2-Dichloro-4-fluorobenzene (98 g, 594 mmol) was added and the resultant mixture heated at reflux for 90 minutes. The reaction mixture was cooled to room temperature and water (500 ml) added. The layers were separated and the solvent removed from the organic fraction. The material was then partitioned between MTBE and 10% aqueous citric acid solution. The layers separated and the aqueous layer washed with further MTBE (2×250 ml). The aqueous phase was basified to pH>10 by addition of 10N NaOH solution and the product extracted with iso-propyl acetate (2×30 ml). The organics were washed with brine (300 ml), dried over magnesium sulfate, filtered and concentrated under vacuum to yield the sub-title compound as a dark oil which was used as such in the next step (109.1 g, 90%).

reactant | 4-hydroxypiperidine | 494 mmol, 50 g | OC1CCNCC1 | C5H11NO
reactant | potassium tert-butoxide | 990 mmol, 110.9 g | CC(C)([O-])C.[K+]
reactant | 1,2-Dichloro-4-fluorobenzene | 594 mmol, 98 g | ClC1=C(C=C(C=C1)F)Cl | C6H3Cl2F
reactant | water | 500 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 650 ml | C1CCOC1 | C4H8O
product | 4-(3,4-dichlorophenoxy)piperidine | ClC=1C=C(OC2CCNCC2)C=CC1Cl | C11H13Cl2NO
